US07141561B2
N-{4-[2-Oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide
4-Acetaminoaniline was reacted with carbonyidiimidazole and (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine as described in example 92, followed by treatment of the crude product with trifluoroacetic acid at 80° C. The product is precipitated on addition of ethyl acetate/heptane 1:1. The precipitated solid was filtered off and dried in a vacuum oven at 40° C. The product with the molecular weight of 385.43 (C23H17N3O2); MS (ESI): 386 ([M+H]+) was obtained in this way.

reactant | 4-Acetaminoaniline | N(C(=O)C)C1=CC=C(N)C=C1 | C8H10N2O
reactant | carbonyidiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine | COC(CNC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C16H19NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-{4-[2-Oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide | O=C1N(C=CN1C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)NC(C)=O | C23H19N3O3
